US07799805B2
[2-(4-Chloro-3-hydroxymethyl-phenyl)-ethyl]-cyclopropyl-carbamic acid tert-butyl ester
Aq. 1M NaOH (48 mL) was added to a suspension of {2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-cyclopropyl-carbamic acid tert-butyl ester (2.10 g, 4.77 mmol) in MeOH (96 mL). The mixture was heated to reflux for 90 min. The mixture was allowed to cool to rt, and the solvents were partially removed under reduced pressure. The resulting aq. mixture was diluted with water (100 mL), and was extracted with Et2O (3×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 40:60) yielded the title compound (1.34 g, 86%). LC-MS: tR=0.98 min; ES+: 326.30.

reactant | NaOH | 1M, 48 mL | [OH-].[Na+]
reactant | {2-[3-(tert-butyl-dimethyl-silanyloxymethyl)-4-chloro-phenyl]-ethyl}-cyclopropyl-carbamic acid tert-butyl ester | 4.77 mmol, 2.10 g | C(C)(C)(C)OC(N(C1CC1)CCC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C23H38ClNO3Si
solvent | MeOH | 96 mL | CO | CH4O
product | [2-(4-Chloro-3-hydroxymethyl-phenyl)-ethyl]-cyclopropyl-carbamic acid tert-butyl ester | 1.34 g, 86% | C(C)(C)(C)OC(N(C1CC1)CCC1=CC(=C(C=C1)Cl)CO)=O | C17H24ClNO3
